US09315490B2
(1-(5-(5-Ethoxy-2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone
Potassium carbonate (0.185 g, 1.34 mmol) and (Ataphos)2PdCl2 (0.032 g, 0.044 mmol) were added under an argon atmosphere to a solution of (1-(5-bromopyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone (0.2 g, 0.445 mmol) and 2-fluoro-5-ethoxyphenylboronic acid (0.165 g, 0.89 mmol) in tert-amylalcohol (8.0 mL) and water (0.8 mL). The reaction mixture was stirred at 90° C. for 4 h, then cooled to ambient temperatures and filtered over celite. The filtrate was concentrated and the residue purified by flash column chromatography [silica; dichloromethane with 2% methanol]. White solid. Yield: 0.14 g (62% of theory)

reactant | Potassium carbonate | 1.34 mmol, 0.185 g | C([O-])([O-])=O.[K+].[K+]
reactant | (1-(5-bromopyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone | 0.445 mmol, 0.2 g | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)S(=O)C | C18H17BrN4O3S
reactant | 2-fluoro-5-ethoxyphenylboronic acid | 0.89 mmol, 0.165 g | FC1=C(C=C(C=C1)OCC)B(O)O | C8H10BFO3
solvent | tert-amylalcohol | 8.0 mL | C(C)(C)(CC)O | C5H12O
solvent | water | 0.8 mL | O | H2O
product | (1-(5-(5-Ethoxy-2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(morpholino)methanone | C(C)OC=1C=CC(=C(C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)S(=O)C)F | C26H25FN4O4S
